US03970754
Preparation of 3-chloro-1,2-dimethyl-5-phenylpyrazolium iodide
To an aqueous solution of 1,2-dimethyl-3-chloro-5-phenylpyrazolium methyl sulfate is added a saturated aqueous solution of sodium iodide at 5°C. A copious precipitate is formed and filtered off. The solid is dissolved in methylene chloride and precipitated with diethyl ether to yield almost white crystals mp 162°C. to 164°C.

reactant | 1,2-dimethyl-3-chloro-5-phenylpyrazolium methyl sulfate | COS(=O)(=O)[O-].C[N+]=1N(C(=CC1C1=CC=CC=C1)Cl)C
reactant | sodium iodide | [I-].[Na+]
product | 3-chloro-1,2-dimethyl-5-phenylpyrazolium iodide | [I-].ClC=1N([N+](=C(C1)C1=CC=CC=C1)C)C | InChI=1S/C11H12ClN2.HI/c1-13-10(8-11(12)14(13)2)9-6-4-3-5-7-9;/h3-8H,1-2H3;1H/q+1;/p-1
